US09382238B2
To a mixture of 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)aniline (500 mg, 1.742 mmol) in 1,4-dioxane (12 mL) and water (3 mL) was added tert-butyl 4-bromo-1H-pyrazole-1-carboxylate (473 mg, 1.916 mmol), PdCl2(dppf) (127 mg, 0.174 mmol) and Cs2CO3 (1135 mg, 3.48 mmol). The mixture was stirred at 100° C. for 16 h under N2. The mixture was filtered and concentrated, which was purified by silica column chromatography (PE/EA=1:1). All fractions found to contain product by TLC (PE/EA=1:1, Rf=0.2) were combined and concentrated. Then the residue was purified by preparative TLC (DCM/MeOH=15:1, Rf=0.6) to yield a yellow solid of 3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline (8 mg, 0.030 mmol, 1.7% yield): 1H NMR (400 MHz, CD3OD) δ 7.93 (s., 2H), 7.08 (s, 1H), 7.06 (s, 1H), 6.78 (s, 1H). ES-LCMS m/z 228.1 (M+H).

reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)aniline | 1.742 mmol, 500 mg | CC1(OB(OC1(C)C)C=1C=C(N)C=C(C1)C(F)(F)F)C | C13H17BF3NO2
reactant | tert-butyl 4-bromo-1H-pyrazole-1-carboxylate | 1.916 mmol, 473 mg | BrC=1C=NN(C1)C(=O)OC(C)(C)C | C8H11BrN2O2
reactant | Cs2CO3 | 3.48 mmol, 1135 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | PdCl2(dppf) | 0.174 mmol, 127 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1H-pyrazol-4-yl)-5-(trifluoromethyl)aniline | 0.030 mmol, 8 mg, 1.7% yield | N1N=CC(=C1)C=1C=C(N)C=C(C1)C(F)(F)F | C10H8F3N3
